US08211927B2
A: (1S,3R)-3-(4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamido) cyclopentyl 2-(tert-butoxycarbonyl)acetate
4-Chloro-N-((1R,3S)-3-hydroxycyclopentyl)-5-(4-(trifluoromethyl)phenyl) isoxazole-3-carboxamide (57 mg, 152 μmol) was dissolved in tetrahydrofuran (2 mL) at room temperature and treated with Boc-Gly-OH (28 mg, 160 μmol), 1-Hydroxybenzotriazole hydrate (21 mg, 155 μmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (34 mg, 177 μmol) and triethylamine (21 μL, 151 μmol). The mixture was stirred overnight and the volatiles were then removed in vacuo. The crude residue was purified by silica gel chromatography, eluting with 55% ethylacetate in hexanes to give the title compound (1S,3R)-3-(4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamido)cyclopentyl 2-(tert-butoxycarbonyl)acetate (25 mg, 47 μmol).

reactant | 4-Chloro-N-((1R,3S)-3-hydroxycyclopentyl)-5-(4-(trifluoromethyl)phenyl) isoxazole-3-carboxamide | 152 μmol, 57 mg | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)N[C@H]1C[C@H](CC1)O | C16H14ClF3N2O3
reactant | Boc-Gly-OH | 160 μmol, 28 mg | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | 1-Hydroxybenzotriazole hydrate | 155 μmol, 21 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 177 μmol, 34 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 151 μmol, 21 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (1S,3R)-3-(4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamido)cyclopentyl 2-(tert-butoxycarbonyl)acetate | 47 μmol, 25 mg | C(C)(C)(C)OC(=O)CC(=O)O[C@@H]1C[C@@H](CC1)NC(=O)C1=NOC(=C1Cl)C1=CC=C(C=C1)C(F)(F)F | C23H24ClF3N2O6
